US04592866
2-[2-(1-Azetidinyl)ethyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one oxalate hydrate [1:1:0.5]
To a solution of 5.0 g (0.021 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one dissolved in 40 ml of dimethylsulfoxide was added 8.7 g (0.063 mole) of potassium carbonate followed by 1.40 g (0.025 mole) of azetidine. The mixture was stirred for 4 days at room temperature*. Another 0.5 g (0.009 mole) of azetidine was added and stirring continued for 24 hr. Another 0.7 g (0.012 mole) of azetidine was added and the mixture was stirred for 24 hr. The potassium carbonate was filtered off and the dimethyl sulfoxide was removed from the filtrate by rotary evaporation at 90° C., 0.5 mm Hg. The residue was taken up in 100 ml of methylene chloride and the solution was washed with two 30 ml portions of water followed by 30 ml of dilute aqueous sodium hydroxide. The organic layer was dried over magnesium sulfate, filtered and concentrated by rotary evaporation. The residual syrup was reacted with oxalic acid in isopropyl alcohol giving 3.3 g (44%) of white crystals, m.p. 170°-172° C. 1HNMR analysis was essentially the same as for the same compound obtained in Example 106.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepin-5(4H)-one | 0.021 mole, 5.0 g | ClCCC1OC2=C(C(N(C1)C)=O)C=CC=N2 | C11H13ClN2O2
reactant | potassium carbonate | 0.063 mole, 8.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | azetidine | 0.025 mole, 1.40 g | N1CCC1 | C3H7N
reactant | azetidine | 0.009 mole, 0.5 g | N1CCC1 | C3H7N
reactant | azetidine | 0.012 mole, 0.7 g | N1CCC1 | C3H7N
reactant | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 2-[2-(1-Azetidinyl)ethyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one oxalate hydrate | O.C(C(=O)O)(=O)O.N1(CCC1)CCC1OC2=C(C(N(C1)C)=O)C=CC=N2 | InChI=1S/C14H19N3O2.C2H2O4.H2O/c1-16-10-11(5-9-17-7-3-8-17)19-13-12(14(16)18)4-2-6-15-13;3-1(4)2(5)6;/h2,4,6,11H,3,5,7-10H2,1H3;(H,3,4)(H,5,6);1H2
